US08957102B2
(Step 4) 3-fluoro-4-[2-phenyl-1-(2-trimethylsilanyl-ethoxymethyl)-1H-pyrrolo[2,3-b]pyridin-4-yloxy]-phenyl-carbamic acid t-butyl ester
4-Chloro-2-phenyl-1-(2-trimethylsilanyl-ethoxymethyl)-1H-pyrrolo[2,3-b]pyridine (312 mg, 0.87 mmol) and (3-fluoro-4-hydroxy-phenyl)-carbamic acid t-butyl ester (336 mg, 1.48 mmol) were dissolved in anhydrous toluene (5 mL) under nitrogen atmosphere. After adding dicyclohexyl-phosphino-2,4,6-triisopropylbiphenyl (41 mg, 0.087 mmol), Pd2 dba3 (40 mg, 0.044 mmol) and potassium carbonate, the mixture was heated at 110° C. The resulting reaction mixture was cooled to room temperature and filtered by passing through a celite pad. The filtrate was concentrated under reduced pressure. The resulting residue was purified by silica gel chromatography (hexane: ethyl acetate=9:1) to give the target compound as a white solid (404 mg, 0.73 mmol, 84% yield).

reactant | 4-Chloro-2-phenyl-1-(2-trimethylsilanyl-ethoxymethyl)-1H-pyrrolo[2,3-b]pyridine | 0.87 mmol, 312 mg | ClC1=C2C(=NC=C1)N(C(=C2)C2=CC=CC=C2)COCC[Si](C)(C)C | C19H23ClN2OSi
reactant | (3-fluoro-4-hydroxy-phenyl)-carbamic acid t-butyl ester | 1.48 mmol, 336 mg | C(C)(C)(C)OC(NC1=CC(=C(C=C1)O)F)=O | C11H14FNO3
reactant | dicyclohexyl-phosphino-2,4,6-triisopropylbiphenyl | 0.087 mmol, 41 mg | C1(CCCCC1)C1=C(C=CC=C1)C1=C(C(=C(C(=C1C(C)C)C1CCCCC1)C(C)C)P)C(C)C | C33H49P
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | toluene | 5 mL | C1(=CC=CC=C1)C | C7H8
catalyst | Pd2 dba3 | 0.044 mmol, 40 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | 3-fluoro-4-[2-phenyl-1-(2-trimethylsilanyl-ethoxymethyl)-1H-pyrrolo[2,3-b]pyridin-4-yloxy]-phenyl-carbamic acid t-butyl ester | 0.73 mmol, 404 mg, 84% yield | C(C)(C)(C)OC(NC1=CC(=C(C=C1)OC1=C2C(=NC=C1)N(C(=C2)C2=CC=CC=C2)COCC[Si](C)(C)C)F)=O | C30H36FN3O4Si
